US07645789B2
To a stirred suspension of AlCl3 (58 g, 440 mmol) in CS2 (500 mL) was added acetyl chloride (7.4 g, 95 mmol) at room temperature. After stirring for 5 min, methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate (15 g, 73 mmol) was added. The reaction mixture was heated at reflux for 2 h before ice water was added carefully to the mixture at room temperature. The resulting mixture was extracted with EtOAc (150 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under reduced pressure to give 1-(3-acetyl-4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester (15 g, 81%), which was used in the next step without further purification. 1H NMR (CDCl3, 400 MHz) δ 12.28 (s, 1H), 7.67 (d, J=2.0 Hz, 1H), 7.47 (dd, J=2.0, 8.4 Hz, 1H), 6.94 (d, J=8.4 Hz, 1H), 3.64 (s, 3H), 2.64 (s, 3H), 1.65-1.62 (m, 2H), 1.18-1.16 (m, 2H).

reactant | AlCl3 | 440 mmol, 58 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 95 mmol, 7.4 g | C(C)(=O)Cl | C2H3ClO
reactant | methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate | 73 mmol, 15 g | COC1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H14O3
solvent | CS2 | 500 mL | C(=S)=S | CS2
product | 1-(3-acetyl-4-hydroxy-phenyl)-cyclopropanecarboxylic methyl ester | 15 g, 81% | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)C(C)=O | C13H14O4
